US04069381
0.5 g of rhenium-V-chloride, 1 g copper-II-chloride and 1 g iron-III-chloride are dissolved in 500 ml of glacial acetic acid and 50 ml of acetic acid anhydride and then treated as in the earlier Examples. On working up, 20.2 g of propylene glycol diacetate are obtained.

reactant | acetic acid anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | propylene glycol diacetate | 20.2 g | C(C)(=O)OCC(C)OC(C)=O | C7H12O4
